US04053469
To a solution of diphenylmethyl 3-(diphenylmethoxycarbonylmethoxyiminomethyl)-7-(2-thienylacetamido)-3-cephem-4-carboxylate (187 mg) in methylene chloride (4 ml) are added anisole (0.8 ml) at 0° C., and trifluoroacetic acid (0.8 ml) under argon atmosphere, and the mixture is stirred for 10 minutes at room temperature. After evaporation of the methylene chloride and trifluoroacetic acid, the mixture is treated with ether to give 3-(carboxymethoxyiminomethyl)-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid (86 mg). m.p. 158°-163° C. (decomp.).

reactant | diphenylmethyl 3-(diphenylmethoxycarbonylmethoxyiminomethyl)-7-(2-thienylacetamido)-3-cephem-4-carboxylate | 187 mg | C1(=CC=CC=C1)C(OC(=O)CON=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O)C2=CC=CC=C2 | C42H35N3O7S2
reactant | anisole | 0.8 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-(carboxymethoxyiminomethyl)-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 86 mg | C(=O)(O)CON=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C16H15N3O7S2
